US08278453B2
To a solution of ethyl 1-formyl-4-oxo-4H-quinolizine-3-carboxylate (0.400 mg, 1.63 mmol) in 30 mL 1:1 THF:CH2Cl2 at −20° C. was added phenylmagnesium bromide (0.979 mL, 1.96 mmol, 2.0 M in THF) dropwise. The reaction was allowed to warm to rt. After 30 minutes, saturated aqueous ammonium chloride was added, and the mixture was filtered and concentrated to provide crude ethyl 1-[hydroxy(phenyl)methyl]-4-oxo-4H-quinolizine-3-carboxylate as a yellow solid. To a solution of the resultant residue (115 mg, 0.356 mmol) in 4 mL 1:2:1 DMSO:MeOH:H2O was added sodium hydroxide (0.100 g, 2.50 mmoL). The reaction was heated to 60° C. for 1 h, cooled to rt, and subjected to purification via reverse phase HPLC to yield the title compound that gave a mass ion (ES+) of 296.2 for M+H+.

reactant | ethyl 1-formyl-4-oxo-4H-quinolizine-3-carboxylate | 1.63 mmol, 0.400 mg | C(=O)C=1C=C(C(N2C=CC=CC12)=O)C(=O)OCC | C13H11NO4
reactant | THF | C1CCOC1 | C4H8O
reactant | phenylmagnesium bromide | 1.96 mmol, 2.0 M, 0.979 mL | C1(=CC=CC=C1)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | ethyl 1-[hydroxy(phenyl)methyl]-4-oxo-4H-quinolizine-3-carboxylate | OC(C=1C=C(C(N2C=CC=CC12)=O)C(=O)OCC)C1=CC=CC=C1 | C19H17NO4
